US08563575B2
2-Chloro-1-methyl-1H-benzimidazole (15 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (25.5 mg) and sodium hydride (4.0 mg) in DMF (1.0 mL) at room temperature. The mixture was heated at 180° C. for 30 min under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-30% EtOAc in hexane) to give 1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (5 mg) as white crystals.

reactant | 2-Chloro-1-methyl-1H-benzimidazole | 15 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 25.5 mg | C(C)N1C(N(C2=NC=C(C=C21)C#N)C2=CC=C(C=C2)O)=O | C15H12N4O2
reactant | sodium hydride | 4.0 mg | [H-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 5 mg | C(C)N1C(N(C2=NC=C(C=C21)C#N)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1)=O | C23H18N6O2
